US07973041B2
Part 6. 1-tert-butyl 3-methyl (2S,3S,5S)-5-[(5-chloropyridin-3-yl)oxy]-2-[4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonylpiperidine-1,3-dicarboxylate
To a solution of 1-tert-butyl 3-methyl (2S,3S,5R)-2-[4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl-5-hydroxypiperidine-1,3-dicarboxylate (100 mg, 0.0002 mol) in tetrahydrofuran (0.912 mL, 0.0112 mol) was added 5-chloropyridin-3-ol (35.0 mg, 0.000270 mol), triphenylphosphine (70.8 mg, 0.000270 mol), followed by diisopropyl azodicarboxylate (0.0532 mL, 0.000270 mol). The mixture was heated at 70 Celsius overnight. After concentrated to dry, the mixture was purified on silica gel, elutin with 0 to 40% EtOAc in hexane, to yield the desired product (45 mg, 32.84%). MS (ESI) (M+H) 609.1.

reactant | 1-tert-butyl 3-methyl (2S,3S,5R)-2-[4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl-5-hydroxypiperidine-1,3-dicarboxylate | 0.0002 mol, 100 mg | C(#N)C1=C(C=C(C=C1C)C=1CCN(CC1)C(=O)[C@H]1N(C[C@@H](C[C@@H]1C(=O)OC)O)C(=O)OC(C)(C)C)C | C27H35N3O6
reactant | tetrahydrofuran | 0.0112 mol, 0.912 mL | O1CCCC1 | C4H8O
reactant | 5-chloropyridin-3-ol | 0.000270 mol, 35.0 mg | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | triphenylphosphine | 0.000270 mol, 70.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.000270 mol, 0.0532 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 1-tert-butyl 3-methyl (2S,3S,5S)-5-[(5-chloropyridin-3-yl)oxy]-2-[4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonylpiperidine-1,3-dicarboxylate | 45 mg, 32.84% | ClC=1C=C(C=NC1)O[C@H]1C[C@@H]([C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCC(=CC1)C1=CC(=C(C(=C1)C)C#N)C)C(=O)OC | C32H37ClN4O6
